US05856575
An intimate mixture of hydroquinone (5.5 g), acetamide (3.5 g) and phosphotungstic acid (0.3 g) was placed in a well stoppered stainless steel tube from which air has been displaced with nitrogen. The tube was kept in a temperature controlled oven at 280°-300° C. for 1.5 hrs. The tube was then removed from the oven, cooled, opened, contents extracted with ethyl acetate, crystallized and products analyzed by gas chromatography. Pure standard substances were used for calibration. The products were also analyzed and identified by GC-mass spectroscopy techniques. The conversion of hydroquinone was 95% by wt. and selectivity to N-acetyl para aminophenol was 86%. Pure N-acetyl para aminophenol could be isolated from the products by column chromatography using alumina.

reactant | hydroquinone | 5.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | acetamide | 3.5 g | C(C)(=O)N | C2H5NO
catalyst | phosphotungstic acid | 0.3 g | O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.P.[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W]
product | N-acetyl para aminophenol | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
